US07351733B2
A solution of 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine (50 mg, 0.23 mmol) and 2-methylsulfonylpyrimidine (69 mg, 0.44 mmol) in N,N-dimethylformamide (0.50 mL) was heated at 150° C. for 900 seconds in a Smith Synthesizer microwave. The mixture was diluted with ethyl acetate and extracted with 5% aqueous lithium chloride. The organic layer was isolated and concentrated onto silica. Purification by flash chromatography (0-30% ethyl acetate-hexanes) yielded 6-chloro-N-pyrimidin-2-yl-2,3,4,9-tetrahydro-1H-carbazol-1-amine (8 mg, 12% yield) as a yellow solid.

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 0.23 mmol, 50 mg | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
reactant | 2-methylsulfonylpyrimidine | 0.44 mmol, 69 mg | CS(=O)(=O)C1=NC=CC=N1 | C5H6N2O2S
solvent | N,N-dimethylformamide | 0.50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-N-pyrimidin-2-yl-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 8 mg, 12% yield | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC=CC=N1 | C16H15ClN4
